US07618975B2
(4-Methoxy-phenyl)-methyl-(quinolin-4-yl)-amine
A mixture of 4-chloroquinoline (50 mg, 0.31 mmol) and (4-methoxy-phenyl)-methyl amine (300 mg, 2.2 mmol) was heated in a sealed tube at 140° C. overnight. The crude product was purified by chromatography (20-40% ethyl acetate/hexanes) on silica gel to give the title compound (60 mg, 0.23 mmol, 74%). 1H NMR (CDCl3): 8.77 (d, 1H, J=5.1), 8.00-8.04 (m, 1H), 7.61-7.64 (m, 1H), 7.55 (ddd, 1H, J=1.5, 6.9, 8.4), 7.22 (ddd, 1H, J=1.5, 6.9, 8.1), 6.99 (d, 1H, J=4.8), 6.92 (m, 2H), 6.89 (m, 2H), 3.77 (s, 3H), 3.43 (s, 3H).

reactant | 4-chloroquinoline | 0.31 mmol, 50 mg | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | (4-methoxy-phenyl)-methyl amine | 2.2 mmol, 300 mg | COC1=CC=C(C=C1)NC | C8H11NO
product | (4-Methoxy-phenyl)-methyl-(quinolin-4-yl)-amine | 0.23 mmol, 60 mg, 74% | COC1=CC=C(C=C1)N(C1=CC=NC2=CC=CC=C12)C | C17H16N2O
